US08114891B2
1-Azabicyclo[2.2.1]heptan-4-ylmethyl 1H-indole-3-carboxylate was synthesized using the procedure described for (Quinuclidin-4-yl)methyl 1H-indole-3-carboxylate using 1-Azabicyclo[2.2.1]heptan-4-ylmethanol. MS: (m/e) 270.

reactant | (Quinuclidin-4-yl)methyl 1H-indole-3-carboxylate | N1C=C(C2=CC=CC=C12)C(=O)OCC12CCN(CC1)CC2 | C17H20N2O2
reactant | 1-Azabicyclo[2.2.1]heptan-4-ylmethanol | N12CCC(CC1)(C2)CO | C7H13NO
product | 1-Azabicyclo[2.2.1]heptan-4-ylmethyl 1H-indole-3-carboxylate | N1C=C(C2=CC=CC=C12)C(=O)OCC12CCN(CC1)C2 | C16H18N2O2
